US06566377B2
1,1-Dimethyl-2-[4-(2-methyl-thiazol-4-yl)-phenyl]-ethylamine
In a round-bottomed flask, N-{1,1-dimethyl-2-[4-(2-methyl-thiazol-4-yl)-phenyl]-ethyl}-2,2,2-trifluoroacetamide (˜362 mg, 1.06 mmol) was suspended in 7.5 ml of 2:1 (v:v) methanol/tetrahydrofuran, and 5M sodium hydroxide (3.2 ml, 15 equiv.) was added dropwise. The solution turned from colorless to golden brown, and was then allowed to stir at room temperature overnight. The reaction mixture was then concentrated in vacuo to remove volatiles, and the residue was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The aqeuous layer was removed and was washed twice more with ethyl acetate. The combined organic extracts were then washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo to afford the product (242 mg, 93% yield for both steps), which was used directly without further purification. LRMS ([M+1]+)=247.3.

reactant | N-{1,1-dimethyl-2-[4-(2-methyl-thiazol-4-yl)-phenyl]-ethyl}-2,2,2-trifluoroacetamide | 1.06 mmol, ˜362 mg | CC(CC1=CC=C(C=C1)C=1N=C(SC1)C)(C)NC(C(F)(F)F)=O | C16H17F3N2OS
reactant | sodium hydroxide | 5M, 3.2 ml, 15 equiv. | [OH-].[Na+]
solvent | methanol tetrahydrofuran | 7.5 ml | CO.O1CCCC1
product | 1,1-Dimethyl-2-[4-(2-methyl-thiazol-4-yl)-phenyl]-ethylamine | 93% yield | CC(CC1=CC=C(C=C1)C=1N=C(SC1)C)(C)N | C14H18N2S
